US08022222B2
Using the method of Example 32, 2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid (0.1 g, 0.3055 mmol), triethylamine (0.2129 mL, 1.527 mmol), ethyl carbonochloridate (0.03213 mL, 0.3360 mmol), N,N,N-trimethylethylenediamine (0.1191 mL, 0.9164 mmol) in THF (2 mL) were reacted to provide N-(2-(dimethyl-amino)ethyl)-N-methyl-2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride (0.067 g, 44.82% yield) as off white solid. 1H NMR (CDCl3) δ 8.20 (d, 1H), 7.57 (d, 1H), 7.50 (t, 1H), 7.38 (t, 1H), 7.13 (d, 1H), 6.79 (s, 1H), 6.59 (dd, 1H), 6.40 (d, 1H), 3.97 (m, 2H), 3.17 (m, 2H), 3.03 (s, 3H), 2.87 (s, 6H), 2.41 (s, 3H); Mass spectrum (esi) m/z=412 (100) (M+H).

reactant | 2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid | 0.3055 mmol, 0.1 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC1=C(C(=O)O)C=CC=C1 | C16H13N3O3S
reactant | triethylamine | 1.527 mmol, 0.2129 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.3360 mmol, 0.03213 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | N,N,N-trimethylethylenediamine | 0.9164 mmol, 0.1191 mL | CNCCN(C)C | C5H14N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(2-(dimethyl-amino)ethyl)-N-methyl-2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride | 0.067 g, 44.82% yield | Cl.Cl.CN(CCN(C(C1=C(C=CC=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C)=O)C)C | InChI=1S/C21H25N5O2S.2ClH/c1-15-14-29-21(23-15)24-19-13-16(9-10-22-19)28-18-8-6-5-7-17(18)20(27)26(4)12-11-25(2)3;;/h5-10,13-14H,11-12H2,1-4H3,(H,22,23,24);2*1H
